US06008229
To a solution of 8 -acetoxy-2-methylimidazo[l,2-a]pyridine (100 mg) in ethanol (1 ml) was added N-bromosuccinimide (103 mg) under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature. The mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (ethyl acetate) to give 8-acetoxy-3-bromo-2-methylimidazo[1,2-a]pyridine (123 mg) as oil.

reactant | 8 -acetoxy-2-methylimidazo[l,2-a]pyridine | 100 mg | C(C)(=O)OC=1C=2N(C=CC1)C=C(N2)C | C10H10N2O2
reactant | N-bromosuccinimide | 103 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-acetoxy-3-bromo-2-methylimidazo[1,2-a]pyridine | 123 mg | C(C)(=O)OC=1C=2N(C=CC1)C(=C(N2)C)Br | C10H9BrN2O2
